US06596751B2
Methyl 3-[4-(t-butoxycarbonylmethoxy)phenyl]-2-(4-fluorobenzyloxy)propionate
A mixture of methyl 4-(t-butoxycarbonylmethoxy)phenyllactate (3.0 g), 4-fluorobenzylbromide (2.4 ml), silver oxide (9.0 g) and toluene (60 ml) was stirred at 80° C. under a nitrogen atmosphere for 3 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane:ethyl acetate=5:1 as the eluant to afford the title compound (2.9 g, Rf=0.39: thin layer chromatography on a silica gel plate using hexane:ethyl acetate=3:1 as the eluant).

reactant | methyl 4-(t-butoxycarbonylmethoxy)phenyllactate | 3.0 g | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)C(C(=O)OC)(O)C | C16H22O6
reactant | 4-fluorobenzylbromide | 2.4 ml | FC1=CC=C(CBr)C=C1 | C7H6BrF
catalyst | silver oxide | 9.0 g | [Ag]=O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-[4-(t-butoxycarbonylmethoxy)phenyl]-2-(4-fluorobenzyloxy)propionate | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)CC(C(=O)OC)OCC1=CC=C(C=C1)F | C23H27FO6
